US07846972B2
In a nitrogen atmosphere, oxalyl chloride (0.46 mL, 5.4 mmol) was dropped into an absolute methylene chloride solution (8.5 mL) of oleic acid (503 mg, 1.8 mmol) under ice cooling. The solution was then stirred at room temperature for four hours. Thereafter it was concentrated under reduced pressure. Diethylamine (1.0 mL, 9.7 mmol) was added to the resultant residue, which was then stirred at room temperature for 0.5 hour. Water was then added, and extraction was performed with ethyl acetate. The organic layer thus obtained was washed with saturated saline, dried with anhydrous sodium sulfate, and concentrated under reduced pressure. The crude extract thus obtained was purified using column chromatography (n-hexane:ethyl acetate=1:2). Thus (Z)-N,N-diethyl-9-octadecenamide (495 mg, 82%) was obtained as a colorless oily matter.

reactant | oxalyl chloride | 5.4 mmol, 0.46 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | methylene chloride | 8.5 mL | C(Cl)Cl | CH2Cl2
reactant | oleic acid | 1.8 mmol, 503 mg | C(CCCCCCC\C=C/CCCCCCCC)(=O)O | C18H34O2
reactant | Diethylamine | 9.7 mmol, 1.0 mL | C(C)NCC | C4H11N
solvent | Water | O | H2O
product | (Z)-N,N-diethyl-9-octadecenamide | 495 mg, 82% | C(C)N(C(CCCCCCC\C=C/CCCCCCCC)=O)CC | C22H43NO
